US09278931B2
3-bromo-N-{4-[trans-2-(octylamino)cyclopropyl]phenyl}benzamide
To a solution of N-[4-(trans-2-aminocyclopropyl)phenyl]-3-bromobenzamide hydrochloride (80 mg) in methanol (2 mL) were added octylaldehyde (34 μL) and sodium hydrogen carbonate (27.4 mg). The reaction mixture was stirred at 70° C. for 1 hr, and ice-cooled to 0° C. and sodium borohydride (12.4 mg) was added. The mixture was stirred for 1 hr and water was added. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) and recrystallized (hexane/ethyl acetate) to give the title compound (48.3 mg).

reactant | N-[4-(trans-2-aminocyclopropyl)phenyl]-3-bromobenzamide hydrochloride | 80 mg | Cl.N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)Br)=O
reactant | sodium hydrogen carbonate | 27.4 mg | C(O)([O-])=O.[Na+]
reactant | sodium borohydride | 12.4 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 2 mL | CO | CH4O
product | 3-bromo-N-{4-[trans-2-(octylamino)cyclopropyl]phenyl}benzamide | 48.3 mg | BrC=1C=C(C(=O)NC2=CC=C(C=C2)[C@H]2[C@@H](C2)NCCCCCCCC)C=CC1 | C24H31BrN2O
